US04093812
At from 23° to 30° C add a warm solution of 7.5 g of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxylic acid chloride in 200 ml of acetone and 250 ml of dioxane dropwise to a solution of 1.84 g of sodium azide in 24 ml of water. Stir the resulting reaction mixture for a further 15 minutes and then dilute it with 600 ml of water cooling with ice to obtain a 98% yield of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxylic acid azide [m.p. 134° C (with decomposition)].

reactant | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxylic acid chloride | 7.5 g | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C(=O)Cl)C1=CC=CC=C1 | C14H8ClN3O4
reactant | sodium azide | 1.84 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | dioxane | 250 ml | O1CCOCC1 | C4H8O2
solvent | water | 24 ml | O | H2O
solvent | water | 600 ml | O | H2O
product | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxylic acid azide | 98% yield | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C(=O)N=[N+]=[N-])C1=CC=CC=C1 | C14H8N6O4
